US06632811B2
Synthesis of 4-(N′-(3,5-Difluorophenylacetyl)-L-alaninyl)amino-1,2,3,4-tetrahydroisoquinolin-3-one
Following General Procedure D above using N-(3,5-difluorophenylacetyl)-L-alanine and 4-amino-1,2,3,4-tetrahydroisoquinoline-3-one, the title compound was prepared as a solid having a melting point of 243-244° C.

reactant | N-(3,5-difluorophenylacetyl)-L-alanine | FC=1C=C(C=C(C1)F)CC(=O)N[C@@H](C)C(=O)O | C11H11F2NO3
reactant | 4-amino-1,2,3,4-tetrahydroisoquinoline-3-one | NC1C(NCC2=CC=CC=C12)=O | C9H10N2O
product | 4-(N′-(3,5-Difluorophenylacetyl)-L-alaninyl)amino-1,2,3,4-tetrahydroisoquinolin-3-one | FC=1C=C(C=C(C1)F)CC(=O)N[C@@H](C)C(=O)NC1C(NCC2=CC=CC=C12)=O | C20H19F2N3O3
